US07754737B2
To a solution of (R)-tert-butyl 3-((S)-1-(2-(3-fluorophenoxy)phenyl)-1-hydroxy-5-methoxy pentyl)piperidine-1-carboxylate (0.50 g, 1.03 mmol) in MeCN (60 mL) was added 2 N aq HCl (60 mL) slowly at rt. The resulting solution was stirred at rt overnight, then basified to pH=10 with 10 N aq NaOH. The mixture was evaporated under reduced pressure to remove MeCN. The aq layer was extracted with CH2Cl2 (4×10 mL), and the combined organic layers were washed with brine and dried over Na2SO4. The solvent was removed under vacuum to give (S)-1-(2-(3-fluorophenoxy)phenyl)-5-methoxy-1-((R)-piperidin-3-yl)pentan-1-ol (0.40 g, quantitative) as a free amine.

reactant | (R)-tert-butyl 3-((S)-1-(2-(3-fluorophenoxy)phenyl)-1-hydroxy-5-methoxy pentyl)piperidine-1-carboxylate | 1.03 mmol, 0.50 g | FC=1C=C(OC2=C(C=CC=C2)[C@@](CCCCOC)(O)[C@H]2CN(CCC2)C(=O)OC(C)(C)C)C=CC1 | C28H38FNO5
reactant | HCl | 2 N, 60 mL | Cl | ClH
reactant | NaOH | 10 N | [OH-].[Na+]
solvent | MeCN | 60 mL | CC#N | C2H3N
product | (S)-1-(2-(3-fluorophenoxy)phenyl)-5-methoxy-1-((R)-piperidin-3-yl)pentan-1-ol | 0.40 g | FC=1C=C(OC2=C(C=CC=C2)[C@@](CCCCOC)(O)[C@H]2CNCCC2)C=CC1 | C23H30FNO3
